US05587486
3-methylthiophene-2-aldehyde (103 g, 0.816 mol) was mixed with hexane (100 ml), to which aniline (74.4 ml, 0.816 mol) was added and stirred at room temperature for 7 hours. After separating deposited crystalline solids by filtration, and washing with hexane, 139.5 g (yield: 85%) of 3-methylthiophene-2-aldehyde phenylimine was obtained. After concentrating the liquid filtrate and stirring at room temperature for a further 12 hours, 7.30 g (yield: 4%) of 3-methylthiophene-2-aldehyde phenylimine was obtained by post treatment in the same manner as above. 1H-NMR spectra (chemical shift, ppm: in CDCl3); 2.47 (3H, s), 6.92 (1H, d, J=4.9 Hz), 7.15-7.30 (3H), 7.30-7.45 (3H), 8.61 (1H).

reactant | 3-methylthiophene-2-aldehyde | 0.816 mol, 103 g | CC1=C(SC=C1)C=O | C6H6OS
reactant | aniline | 0.816 mol, 74.4 ml | NC1=CC=CC=C1 | C6H7N
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 3-methylthiophene-2-aldehyde phenylimine | 139.5 g, yield: 85% | C1(=CC=CC=C1)N=CC=1SC=CC1C | C12H11NS
